US09315521B2
To a solution of ethyl 3-bromo-5-fluoropyridine-4-carboxylate (4.8 g, 20 mmol) in anhydrous 1,4-dioxane (30 mL) at room temperature was added (1,1′-bis(diphenylphosphino)ferrocene)dichloropalladium (II) (325 mg, 0.43 mmol), followed by a diethylzinc solution (22 mL, 20 mmol, 1.1 M solution in toluene). The mixture was stirred at 70° C. for 45 minutes. After cooling to room temperature, the reaction was quenched with MeOH. Ethyl acetate (100 mL) was added. The mixture was extracted with 0.1 N HCl (200 mL). The organic layer was recovered. The pH of the aqueous phase was brought to 6 with 2 N NaOH. The mixture was extracted with EtOAc (1×100 mL). The combined organic extracts were dried over MgSO4, filtered, evaporated, and dried in vacuo. The crude product was purified by flash chromatography (0-20% ethyl acetate/hexane), affording ethyl 3-ethyl-5-fluoropyridine-4-carboxylate (2.0 g, 51% yield)

reactant | ethyl 3-bromo-5-fluoropyridine-4-carboxylate | 20 mmol, 4.8 g | BrC=1C=NC=C(C1C(=O)OCC)F | C8H7BrFNO2
reactant | diethylzinc | 20 mmol, 1.1 M, 22 mL | C(C)[Zn]CC
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | ethyl 3-ethyl-5-fluoropyridine-4-carboxylate | 2.0 g, 51% yield | C(C)C=1C=NC=C(C1C(=O)OCC)F | C10H12FNO2
